US06410556B1
To a solution of 4-hydroxy-isobenzofuran-1,3-dione (0.51 g, 3.09 mmol) in anhydrous N,N-dimethylformamide (7 ml) under nitrogen was added sodium hydride (130 mg, 3.25 mmol). Immediate evolution of gas and bright yellow color was observed. The mixture was stirred for 5 minutes after which benzyl bromide (1.8 ml, 15.45 mmol) was added. The reaction was stirred for 72 hours. Saturated sodium bicarbonate (2 ml) was added and the mixture stirred for 2 minutes, diluted in ethyl acetate (35 ml) and washed with saturated sodium bicarbonate (5 ml), 1N hydrochloric acid (5 ml), and brine (2×5 ml). The organic layer was dried (MgSO4), filtered and the solvent evaporated in vacuo. To the crude material was added hexane and the formed precipitate was filtered off, washed further with hexane and dried in vacuo to give 0.54 g (69%) of 4-(benzyloxy)-isobenzofuran-1,3-dione as a solid.

reactant | 4-hydroxy-isobenzofuran-1,3-dione | 3.09 mmol, 0.51 g | OC1=C2C(OC(C2=CC=C1)=O)=O | C8H4O4
reactant | sodium hydride | 3.25 mmol, 130 mg | [H-].[Na+]
reactant | benzyl bromide | 15.45 mmol, 1.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | 2 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | 4-(benzyloxy)-isobenzofuran-1,3-dione | 0.54 g, 69% | C(C1=CC=CC=C1)OC1=C2C(OC(C2=CC=C1)=O)=O | C15H10O4
